US07576077B2
8-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine
Trifluoroacetic acid (0.5 mL) was added to a solution of 8-[3-(3-chloro-phenyl) -[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid tert-butyl ester (72.5 mg, 0.14 mmol) in dichloromethane (1 mL) at 0° C. The reaction mixture was then diluted with dichloromethane, After 15 minutes, the reaction was warmed to room temperature and stirred for an additional hour. washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated. Purification was performed by flash column chromatography on silica gel using 85-90% ethyl acetate in hexanes to 2% ammonia in methanol in dichloromethane followed by trituration with diethyl ether to afford the titled compound (40.6 mg, 69%). 1H NMR (CDCl3) δ (ppm): 8.10 (m, 1H), 8.00 (m, 1H), 7.67 (m, 2H), 7.48 (m, 2H), 7.05 (m, 2H), 7.86 (m, 1H), 4.09 (m, 3H), 3.89 (s, 3H), 3.47 (m, 2H), 3.24 (m, 1H), 2.83 (bs, 1H).

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 8-[3-(3-chloro-phenyl) -[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid tert-butyl ester | 0.14 mmol, 72.5 mg | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)C(=NN2)C2=CC=C(C=C2)OC)C2=NC(=NO2)C2=CC(=CC=C2)Cl | C25H25ClN6O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 8-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 40.6 mg, 69% | ClC=1C=C(C=CC1)C1=NOC(=N1)C1C=2N(CCN1)C(=NN2)C2=CC=C(C=C2)OC | C20H17ClN6O2
